US06509500B2
Batch Mode Preparation of 2-[2,4-bis(1,1-dimethylpropyl)phenoxy]-N-[(3,5-dichloro-4-ethyl-2-hydroxyphenyl)]Butanamide (1)
To a 4-neck flask with a gas inlet, condenser, thermometer, and addition funnel, 50 mL of deionized water and 31 g of sodium acetate was added and stirring was continued until the solid dissolved. At this point, 57 g of heptane, 20 g of toluene, and 30 g (0.146 moles) of 3,5-dichloro-4-ethyl-2-hydroxyaniline was added and the 2-phase mixture was warmed to 60° C. A solution of 53.2 g of 2-[2,4-bis(1,1-dimethylpropyl)phenoxy]butyryl chloride (0.157 moles, 8% excess) in 53 g of heptane was then added at 60° C.-65° C. The reaction was held for 2 hr at 60° C. -65° C., upon which time the area percent product by HPLC was 92% on a solvent-free basis. The two-phase mixture was heated to 75° C.-80° C. and held for 15 minutes. The agitator was stopped and the lower layer was decanted. The product solution was washed twice with 42 g of deionized water, cooled to 70° C. and seeded. The product slurry was cooled to 0° C.-5° C., and the product was collected by filtration, washed with cold heptane, and dried to give 66.9 g (90% yield), with an assay of 99.5% (wt.).

reactant | water | 50 mL | O | H2O
reactant | sodium acetate | 31 g | C(C)(=O)[O-].[Na+]
reactant | 3,5-dichloro-4-ethyl-2-hydroxyaniline | 0.146 moles, 30 g | ClC=1C(=C(N)C=C(C1CC)Cl)O | C8H9Cl2NO
reactant | 2-[2,4-bis(1,1-dimethylpropyl)phenoxy]butyryl chloride | 0.157 moles, 53.2 g | CC(CC)(C)C1=C(OC(C(=O)Cl)CC)C=CC(=C1)C(CC)(C)C | C20H31ClO2
solvent | heptane | 53 g | CCCCCCC | C7H16
solvent | heptane | 57 g | CCCCCCC | C7H16
solvent | toluene | 20 g | C1(=CC=CC=C1)C | C7H8
product | 2-[2,4-bis(1,1-dimethylpropyl)phenoxy]-N-[(3,5-dichloro-4-ethyl-2-hydroxyphenyl)]Butanamide | 90% yield | CC(CC)(C)C1=C(OC(C(=O)NC2=C(C(=C(C(=C2)Cl)CC)Cl)O)CC)C=CC(=C1)C(CC)(C)C | C28H39Cl2NO3
